US04588733
In what could be considered as a variation of scheme III, a Heck reaction could be carried out using ethenyl alcohol V and 2-chloro-3-iodo-5-(methylsulfonyl)pyridine to give a ketone analogous to VI except that the methoxy group is replaced by a 2-chloro. This ketone would then be reduced to the corresponding alcohol using diisobutylaluminum hydride at low temperature and the resulting alcohol would be cyclized as described earlier for 2-chloropyridines. The necessary iodo compound used in this procedure can be obtained by starting with 2,5-bis(methylsulfonyl)pyridine and treating it with sulfuric acid to hydrolyze the 2-substituent followed by iodination with potassium iodide/potassium iodate with the procedure giving 3-iodo-5-(methylsulfonyl)-2(1H)-pyridinone as the product. This is then treated with phosphorus oxychloride to give the corresponding 2-chloropyridine. The corresponding compound containing bromide in place of iodine can be obtained by using a brominating agent instead of an iodinating agent in the procedure described above followed by conversion to the 2-chloro compound. The resulting 3-bromo compound could be used in the same way as the 3-iodo compound.

reactant | diisobutylaluminum hydride | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 2,5-bis(methylsulfonyl)pyridine | CS(=O)(=O)C1=NC=C(C=C1)S(=O)(=O)C | C7H9NO4S2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | potassium iodide potassium iodate | [I-].[K+].I(=O)(=O)[O-].[K+]
product | 3-iodo-5-(methylsulfonyl)-2(1H)-pyridinone | IC=1C(NC=C(C1)S(=O)(=O)C)=O | C6H6INO3S
